US08119676B2
To a chilled suspension of 4-amino-3-nitrobenzonitrile (5.0 g, 30.7 mmol), 4-dimethylaminopyridine (catalytic amount) in CH2Cl2 (87 mL) and N,N-diisopropylethylamine (5.3 mL, 30.7 mmol) was added a solution of di-tert-butyldicarbonate (6.7 g, 30.7 mmol) in CH2Cl2 (38 mL) dropwise over 10 min. The suspension was stirred at room temperature for 4 hours. Then, di-tert-butyldicarbonate (0.34 g, 1.53 mmol) was added and the resulting solution was stirred for another hour. The reaction mixture was washed with 10% citric acid aqueous solution, brine, dried over Na2SO4, filtered and concentrated in vacuo. The residue was purified by flash chromatography in silica gel using 30% ethyl acetate in n-heptane as eluent to afford (4-cyano-2-nitrophenyl)-carbamic acid tert-butyl ester (6.4 g, 79%) as a light yellow solid.

reactant | 4-amino-3-nitrobenzonitrile | 30.7 mmol, 5.0 g | NC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H5N3O2
reactant | N,N-diisopropylethylamine | 30.7 mmol, 5.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | di-tert-butyldicarbonate | 30.7 mmol, 6.7 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
catalyst | 4-dimethylaminopyridine | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 87 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 38 mL | C(Cl)Cl | CH2Cl2
catalyst | di-tert-butyldicarbonate | 1.53 mmol, 0.34 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | (4-cyano-2-nitrophenyl)-carbamic acid tert-butyl ester | 6.4 g, 79% | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C#N)[N+](=O)[O-])=O | C12H13N3O4
